US05891871
Methyl 2-(2-Chloro-4-nitrobenzoyl)-4,5-methylenedioxyphenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (12.5 g, 64.4 mmol) in ClCH2CH2Cl (150 mL), 2-chloro-4-nitrobenzoic acid (25.0 g, 124 mmol) and P2O5 (37 g) as a yellow solid (11 g, 29 mmol, 45%). 1H NMR (CDCl3) 8.15 (s, 1H), 8.14 (d, J=8.4, 1H), 7.58 (d, J=8.4, 1H), 6.84 (s, 1H), 6.71 (s, 1H), 6.05 (s, 2H), 4.03 (s, 2H), 3.73 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 64.4 mmol, 12.5 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | 2-chloro-4-nitrobenzoic acid | 124 mmol, 25.0 g | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | P2O5 | 29 mmol, 37 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | ClCH2CH2Cl | 150 mL | C(CCl)Cl | C2H4Cl2
product | Methyl 2-(2-Chloro-4-nitrobenzoyl)-4,5-methylenedioxyphenylacetate | ClC1=C(C(=O)C2=C(C=C3C(=C2)OCO3)CC(=O)OC)C=CC(=C1)[N+](=O)[O-] | C17H12ClNO7
